US06528504B2
5,11-Dihydro-5-[2-(N-methylamino)ethyl]dibenzo[b,e][1,4]oxazepine (254 mg, 1.00 mmol), 4-chlorophenethyl mesylate (352 mg, 1.50 mmol), sodium carbonate (160 mg, 1.50 mmol) and sodium iodide (20 mg, 0.13 mmol) were added to acetonitrile (25 ml), and they were heated at 70° C. under stirring for 22 hours and then at 90° C. under reflux for 6 hours. The solvent was evaporated under reduced pressure. The obtained residue was distributed in ethyl acetate and saturated aqueous sodium hydrogencarbonate solution. The organic layer was washed with water and then dried over magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography. The product was eluted with dichloromethane and then with dichloromethane and methanol (100:1). The appropriate fractions were combined, and the solvent was evaporated under reduced pressure to obtain 5-[2-[N-(4-chlorophenethyl)-N-methyl-amino]ethyl]-5,11-dihydrodibenzo[b,e][1,4]oxazepine in the form of a light yellow oil (171 mg, 44%).

reactant | 5,11-Dihydro-5-[2-(N-methylamino)ethyl]dibenzo[b,e][1,4]oxazepine | 1.00 mmol, 254 mg | CNCCN1C2=C(OCC3=C1C=CC=C3)C=CC=C2 | C16H18N2O
reactant | 4-chlorophenethyl mesylate | 1.50 mmol, 352 mg | S(C)(=O)(=O)OCCC1=CC=C(C=C1)Cl | C9H11ClO3S
reactant | sodium carbonate | 1.50 mmol, 160 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | 0.13 mmol, 20 mg | [I-].[Na+]
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 5-[2-[N-(4-chlorophenethyl)-N-methyl-amino]ethyl]-5,11-dihydrodibenzo[b,e][1,4]oxazepine | ClC1=CC=C(CCN(C)CCN2C3=C(OCC4=C2C=CC=C4)C=CC=C3)C=C1 | C24H25ClN2O
